US05011849
Reaction of 5.0 g (15.1 mmol) of 5-(3-iodophenyl)-4-thiazolecarboxylic acid with 2.6 g (16.2 mmol) of t-butyl (2-aminoethyl)carbamate in an analogous manner to that described in Example 1(E) yielded 6.3 g (88.1%) of t-butyl [2-[5-(3-iodophenyl)-4-thiazolecarboxamido]ethyl]carbamate as white crystals, melting point 111°-112°.

reactant | 5-(3-iodophenyl)-4-thiazolecarboxylic acid | 15.1 mmol, 5.0 g | IC=1C=C(C=CC1)C1=C(N=CS1)C(=O)O | C10H6INO2S
reactant | t-butyl (2-aminoethyl)carbamate | 16.2 mmol, 2.6 g | NCCNC(OC(C)(C)C)=O | C7H16N2O2
product | t-butyl [2-[5-(3-iodophenyl)-4-thiazolecarboxamido]ethyl]carbamate | 6.3 g, 88.1% | IC=1C=C(C=CC1)C1=C(N=CS1)C(=O)NCCNC(OC(C)(C)C)=O | C17H20IN3O3S
